US06943179B2
1.1 A solution of 15.35 g of 4-chlorophenyl isocyanate in 50 ml of THF is added to a solution of 9.83 g of phenylhydrazine in 100 ml of THF under a nitrogen atmosphere, and the mixture is refluxed for 2 hours. Conventional work-up gives 25.1 g of N-(4-chlorophenylaminocarbonyl)-N′-phenylhydrazine(“AA”), El 277, m.p. 187-189.

reactant | 4-chlorophenyl isocyanate | 15.35 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | phenylhydrazine | 9.83 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(4-chlorophenylaminocarbonyl)-N′-phenylhydrazine | 25.1 g | ClC1=CC=C(C=C1)NC(=O)NNC1=CC=CC=C1 | C13H12ClN3O
